US06656950B2
3-{1-[2,3-Dihydro[1,4]dioxino[2,3-b]pyridin-3-ylmethyl]-1,2,3.6-tetrahydro-4-pyridinyl}-1H-indole-5-carbonitrile
3-(1,2,3,6-Tetrahydro-4-pyridinyl)-1H-indole-5-carbonitrile (1.62 g, 7.26 mmole) and 2-bromo-3-[(2S)-oxiranylmethoxy]pyridine (0.84 g, 3.65 mmol) were combined in DMSO (40 mL). This solution was heated at 75-80° C. under nitrogen for 5 hours. After completion, the reaction was cooled to room temperature and partitioned between 250 mL each of ethyl acetate and saturated sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The crude residue was column chromatographed on silica gel using first methylene chloride as eluant to remove impurities and then 3% methanol in methylene chloride to elute the product, which was a yellow foam (0.30 g, 18%). The intermediate (0.30 g, 0.66 mmole) was then cyclized in toluene (40 mL) in the presence of palladium (II) acetate (0.015 g, 0.067 mmole), (S)-(−)-2,2′-Bis(di-p-tolylphosphino)-1,1′-binaphthyl (0.032 g, 0.047 mmole), and potassium carbonate (0.13 g, 0.94 mmole). The heterogeneous mixture was heated at 100° C. for a period of 30 hours. After the mixture cooled to room temperature, the catalysts were removed by filtration and the filtrate was concentrated in vacuum. The resulting crude brown oil was then column chromatographed on silica gel with 3% methanol in methylene chloride to give the desired product as a brown oil (0.100 g, 42%). The oil was crystallized from ethanol with the addition of a solution of oxalic acid in hot ethanol to give 0.050 g of the (S)-enantiomer of the title compound as a white solid, m.p. 165° C.

reactant | 3-(1,2,3,6-Tetrahydro-4-pyridinyl)-1H-indole-5-carbonitrile | 7.26 mmole, 1.62 g | N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C14H13N3
reactant | 2-bromo-3-[(2S)-oxiranylmethoxy]pyridine | 3.65 mmol, 0.84 g | BrC1=NC=CC=C1OC[C@H]1OC1 | C8H8BrNO2
reactant | (S)-(−)-2,2′-Bis(di-p-tolylphosphino)-1,1′-binaphthyl | 0.047 mmole, 0.032 g | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
reactant | potassium carbonate | 0.94 mmole, 0.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.067 mmole, 0.015 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-{1-[2,3-Dihydro[1,4]dioxino[2,3-b]pyridin-3-ylmethyl]-1,2,3.6-tetrahydro-4-pyridinyl}-1H-indole-5-carbonitrile | 0.100 g, 42% | O1CC(OC2=NC=CC=C21)CN2CCC(=CC2)C2=CNC1=CC=C(C=C21)C#N | C22H20N4O2
